US09382222B2
Step 4: 4-[(4-Fluoro-phenyl)-isobutyl-sulfamoyl]-N-(1-methanesulfonyl-piperidin-4-yl)-benzamide
A solution of 4-[(4-fluoro-phenyl)-isobutyl-sulfamoyl]-benzoic acid (100 mg, 0.285 mmol), 4-amino-1-methanesulfonyl piperidine (66 mg, 0.370 mmol) and DIPEA (146 μL, 0.855 mmol) in DMF (2 mL) was treated with HATU (162 mg, 0.428 mmol) and stirred at room temperature for 18 hours. The mixture was diluted with EtOAc, washed with 1 N aqueous HCl, saturated aqueous NaHCO3, water and brine, dried over Na2SO4 and concentrated under vacuum. Purification by silica gel column chromatography (0-50% EtOAc in DCM) and triturating with Et2O gave the title compound (124 mg, 85%). 1H NMR (400 MHz, DMSO) δ 8.60 (d, J=7.6 Hz, 1H), 8.00 (d, J=8.3 Hz, 2H), 7.63 (d, J=8.3 Hz, 2H), 7.20 (t, J=8.7 Hz, 2H), 7.11 (dd, J=8.8, 5.0 Hz, 2H), 3.93-3.95 (m, 1H), 3.58 (d, J=11.8 Hz, 2H), 2.88 (s, 5H), 1.93 (s, 1H), 1.90 (s, 2H), 1.58-1.61 (m, 2H), 1.42-1.44 (m, 1H), 0.85 (d, J=6.6 Hz, 6H). LCMS (m/z, Method B) ES+ 511.8 [M+1]+.

reactant | 4-[(4-fluoro-phenyl)-isobutyl-sulfamoyl]-benzoic acid | 0.285 mmol, 100 mg | FC1=CC=C(C=C1)N(S(=O)(=O)C1=CC=C(C(=O)O)C=C1)CC(C)C | C17H18FNO4S
reactant | 4-amino-1-methanesulfonyl piperidine | 0.370 mmol, 66 mg | NC1CCN(CC1)S(=O)(=O)C | C6H14N2O2S
reactant | DIPEA | 0.855 mmol, 146 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.428 mmol, 162 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-[(4-Fluoro-phenyl)-isobutyl-sulfamoyl]-N-(1-methanesulfonyl-piperidin-4-yl)-benzamide | 124 mg, 85% | FC1=CC=C(C=C1)N(S(=O)(=O)C1=CC=C(C(=O)NC2CCN(CC2)S(=O)(=O)C)C=C1)CC(C)C | C23H30FN3O5S2
